US07667041B2
Synthesis of (E)-1-[(1R)-1-(4-fluorophenyl)-2-methoxyethyl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one
Sodium hydride (containing mineral oil at 40%, 24 mg) was added to a solution of (E)-1-(1-(4-fluorophenyl)-2-hydroxyethyl)-3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)piperidin-2-one synthesized by the method described in Example 629 (216 mg) in THF (5 mL), and the reaction solution was stirred at room temperature for 50 minutes. Then, methyl iodide (85 mg) was added to the reaction solution, and the reaction solution was stirred at room temperature for 14 hours. Saturated sodium bicarbonate water and ethyl acetate were added to the reaction solution and the organic layer was partitioned. The resulting organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Carrier: Chromatorex™ NH, elution solvent:heptane:ethyl acetate=1:1→ethyl acetate) to obtain 185 mg of the title compound. The physical properties of the compound are as follows.

reactant | Sodium hydride | 24 mg | [H-].[Na+]
reactant | (E)-1-(1-(4-fluorophenyl)-2-hydroxyethyl)-3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)piperidin-2-one | FC1=CC=C(C=C1)C(CO)N1C(/C(/CCC1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C25H26FN3O3
reactant | methyl iodide | 85 mg | CI | CH3I
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-1-[(1R)-1-(4-fluorophenyl)-2-methoxyethyl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one | 185 mg | FC1=CC=C(C=C1)[C@H](COC)N1C(/C(/CCC1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C26H28FN3O3
